US07947684B2
A solution of 5-phenylethynyl-pyridine-3-carboxylic acid (0.46 g, 2.1 mmol) in anhydrous dimethylformamide (7 ml) is treated with HATU (0.78 g, 2.1 mmol) and diisopropylethylamine (0.98 ml, 5.6 mmol). The reaction mixture is stirred 15 mins. at ambient temperature before being treated with a solution of 3-(1,2,3,6-tetrahydropyridin-4-yl)-benzonitrile (1.9 mmol) in dimethylformamide (6 ml). The reaction mixture is stirred at ambient temperature 3 hours, concentrated under vacuum and the residue partitioned between ethyl acetate (200 ml) and saturated aqueous sodium bicarbonate ((45 ml). The organic layer is dried (magnesium sulfate), concentrated under vacuum and the residue chromatographed on silica gel (dichloromethane/methanol 39:1) to give 3-[1-(5-phenylethynyl-pyridine-3-carbonyl)-1,2,3,6-tetrahydropyridin-4-yl]-benzonitrile as a yellow oil (0.23 g). This material is dissolved in methanol (15 ml), cooled to 0° C. and saturated with hydrogen chloride gas. The reaction vessel is sealed and allowed to stand at 0° C. for 18 hours. The reaction mixture is concentrated to dryness under vacuum, redissolved in methanol (15 ml) and cooled to 0° C. The solution is saturated with ammonia gas and the vessel sealed before being allowed to stand at 0° C. for 48 hours. The reaction mixture is concentrated to dryness under vacuum and the residue chromatographed on silica gel (dichloromethane/methanol 9:1) to give the title compound as a yellow amorphous solid (0.2 g). 1H NMR (DMSO, 500 MHz) δ8.85 (s, 1H), 8.67 (s, 1H), 8.10 (s, 1H), 7.85 (s, 1H), 7.80 (m, 1H), 7.75 (m, 1H), 7.60 (m, 3H), 7.48 (m, 3H), 6.38 (m, 1H), 4.38 (br m, 1H), 4.19 (br m, 1H), 3.90 (br m, 1H), 3.60 (br m, 1H), 2.63 (br m, 2H). EI MS M++H: 407.

reactant | 5-phenylethynyl-pyridine-3-carboxylic acid | 2.1 mmol, 0.46 g | C1(=CC=CC=C1)C#CC=1C=C(C=NC1)C(=O)O | C14H9NO2
reactant | HATU | 2.1 mmol, 0.78 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 5.6 mmol, 0.98 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(1,2,3,6-tetrahydropyridin-4-yl)-benzonitrile | 1.9 mmol | N1CCC(=CC1)C=1C=C(C#N)C=CC1 | C12H12N2
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 3-[1-(5-phenylethynyl-pyridine-3-carbonyl)-1,2,3,6-tetrahydropyridin-4-yl]-benzonitrile | 0.23 g | C1(=CC=CC=C1)C#CC=1C=C(C=NC1)C(=O)N1CCC(=CC1)C=1C=C(C#N)C=CC1 | C26H19N3O
